US08563505B2
4-bromo-2-methylbiphenyl (5 g, 20.23 mmol) was suspended in pyridine (23 mL) and water (35 mL). Potassium permanganate (16 g, 101 mmol) was added portion wise over a period of 20 min. The mixture was refluxed overnight. The reaction mixture was cooled and MnO2 was filtered off. Conc. HCl was added to the filtrate until the product precipitated. The product was extracted with DCM, washed with water and brine, collected, dried (MgSO4), filtered and evaporated to give 4-bromobiphenyl-2-carboxylic acid (5 g, 18.04 mmol, 89% yield) as a white solid. LCMS: rt=1.39 min.; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220.

reactant | 4-bromo-2-methylbiphenyl | 20.23 mmol, 5 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)C | C13H11Br
reactant | Potassium permanganate | 101 mmol, 16 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 35 mL | O | H2O
solvent | pyridine | 23 mL | N1=CC=CC=C1 | C5H5N
product | 4-bromobiphenyl-2-carboxylic acid | 18.04 mmol, 5 g, 89% yield | BrC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C13H9BrO2
